US08080566B1
A 100-mL round-bottomed flask was charged with a solution of 3-(3H-1,2,3-triazol-4-yl)piperidine hydrochloride (500 mg, 3.29 mmol, 1.00 equiv) in ethanol (50 mL), 9-ethyl-9H-carbazole-3-carbaldehyde (890 mg, 3.99 mmol, 1.50 equiv), N-ethyl-N-isopropylpropan-2-amine (1.37 g, 10.62 mmol, 4.00 equiv), acetic acid (640 mg, 10.67 mmol, 4.00 equiv) and NaBH3CN (510 mg, 8.10 mmol, 3.00 equiv). The resulting solution was heated to 40° C. in an oil bath for 16 hours. The reaction progress was monitored by TLC (DCM: MeOH=10:1). Upon completion, pH was adjusted to 8 with sodium bicarbonate/water. The resulting mixture was then extracted with dichloromethane (4×80 mL). Combined organic layers were dried over anhydrous sodium sulfate, filtered off and concentrated on a rotary evaporator. The residue was purified by a silica gel column chromatography eluted with dichloromethane/methanol (40/1) affording 3-((3-(3H-1,2,3-triazol-4-yl)piperidin-1-yl)methyl)-9-ethyl-9H-carbazole as white solid (0.5 g, 42%). LCMS: [M+H]+: 360. 1H NMR (CDCl3, 300 MHz) δ 8.08 (d, 1H), 8.03 (s, 1H), 7.47 (m, 3H), 7.26 (m, 2H), 4.35 (d, 2H), 3.80 (m, 2H), 3.30 (s, 1H), 2.99 (s, 2H), 2.80 (s, 1H), 2.61 (s, 2H), 1.94 (s, 1H), 1.73 (s, 2H), 1.54 (s, 1H), 1.42 (t, 3H).

reactant | 3-(3H-1,2,3-triazol-4-yl)piperidine hydrochloride | 3.29 mmol, 500 mg, 1.00 equiv | Cl.N1=NNC(=C1)C1CNCCC1
reactant | 9-ethyl-9H-carbazole-3-carbaldehyde | 3.99 mmol, 890 mg, 1.50 equiv | C(C)N1C2=CC=CC=C2C=2C=C(C=CC12)C=O | C15H13NO
reactant | N-ethyl-N-isopropylpropan-2-amine | 10.62 mmol, 1.37 g, 4.00 equiv | C(C)N(C(C)C)C(C)C | C8H19N
reactant | acetic acid | 10.67 mmol, 640 mg, 4.00 equiv | C(C)(=O)O | C2H4O2
reactant | NaBH3CN | 8.10 mmol, 510 mg, 3.00 equiv | [BH3-]C#N.[Na+]
reactant | sodium bicarbonate water | C([O-])(O)=O.[Na+].O
solvent | ethanol | 50 mL | C(C)O | C2H6O
solvent | MeOH | CO | CH4O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 3-((3-(3H-1,2,3-triazol-4-yl)piperidin-1-yl)methyl)-9-ethyl-9H-carbazole | 0.5 g, 42% | N1=NNC(=C1)C1CN(CCC1)CC=1C=CC=2N(C3=CC=CC=C3C2C1)CC | C22H25N5
